* NGSPICE file created from SwitchMatrixMultiplexer_inv_rcx.ext - technology: ihp-sg13g2

.subckt SwitchMatrixMultiplexer_inv_rcx D A VDD B X VSS SEL
X0 a_300_158# a_274_122# a_238_158# VSS.t0 sg13_lv_nmos ad=0.1045p pd=0.93u as=49.5f ps=0.73u w=0.55u l=0.13u
X1 a_402_158# D.t0 a_300_158# VSS.t12 sg13_lv_nmos ad=49.5f pd=0.73u as=0.1045p ps=0.93u w=0.55u l=0.13u
X2 X.t0 A.t0 a_692_96# VSS.t11 sg13_lv_nmos ad=0.1045p pd=0.93u as=49.5f ps=0.73u w=0.55u l=0.13u
X3 VSS.t7 SEL.t0 a_42_158# VSS.t9 sg13_lv_nmos ad=0.1045p pd=0.93u as=0.187p ps=1.78u w=0.55u l=0.13u
X4 VSS.t4 SEL.t0 a_402_158# VSS.t10 sg13_lv_nmos ad=0.19525p pd=1.35u as=49.5f ps=0.73u w=0.55u l=0.13u
X5 a_274_122# a_300_158# VSS.t4 VSS.t3 sg13_lv_nmos ad=0.16885p pd=1.29u as=0.19525p ps=1.35u w=0.88u l=0.13u
X6 a_692_96# a_300_158# a_274_122# VSS.t5 sg13_lv_nmos ad=49.5f pd=0.73u as=0.16885p ps=1.29u w=0.55u l=0.13u
X7 a_238_158# a_42_158# VSS.t7 VSS.t6 sg13_lv_nmos ad=49.5f pd=0.73u as=0.1045p ps=0.93u w=0.55u l=0.13u
X8 a_274_122# a_300_158# VDD.t2 VDD.t0 sg13_lv_pmos ad=0.2497p pd=1.71u as=0.2503p ps=1.77u w=1.3u l=0.13u
X9 a_856_96# B.t0 X.t0 VSS.t8 sg13_lv_nmos ad=49.5f pd=0.73u as=0.1045p ps=0.93u w=0.55u l=0.13u
X10 VSS.t2 a_274_122# a_856_96# VSS.t1 sg13_lv_nmos ad=0.209p pd=1.86u as=49.5f ps=0.73u w=0.55u l=0.13u
X11 a_300_158# a_274_122# a_238_448# VDD.t0 sg13_lv_pmos ad=0.1596p pd=1.22u as=75.59999f ps=1.02u w=0.84u l=0.13u
X12 VDD.t1 a_274_122# a_856_452# VDD.t0 sg13_lv_pmos ad=0.3116p pd=2.4u as=73.8f ps=1u w=0.82u l=0.13u
X13 a_402_448# D.t0 a_300_158# VDD.t0 sg13_lv_pmos ad=75.59999f pd=1.02u as=0.1596p ps=1.22u w=0.84u l=0.13u
X14 a_692_452# a_300_158# a_274_122# VDD.t0 sg13_lv_pmos ad=73.8f pd=1u as=0.2497p ps=1.71u w=0.82u l=0.13u
X15 VDD.t4 SEL.t0 a_42_158# VDD.t0 sg13_lv_pmos ad=0.1596p pd=1.22u as=0.2856p ps=2.36u w=0.84u l=0.13u
X16 VDD.t2 a_42_158# a_402_448# VDD.t0 sg13_lv_pmos ad=0.2503p pd=1.77u as=75.59999f ps=1.02u w=0.84u l=0.13u
X17 X.t1 B.t1 a_692_452# VDD.t0 sg13_lv_pmos ad=0.1558p pd=1.2u as=73.8f ps=1u w=0.82u l=0.13u
X18 a_238_448# SEL.t0 VDD.t4 VDD.t0 sg13_lv_pmos ad=75.59999f pd=1.02u as=0.1596p ps=1.22u w=0.84u l=0.13u
X19 a_856_452# A.t0 X.t1 VDD.t0 sg13_lv_pmos ad=73.8f pd=1u as=0.1558p ps=1.2u w=0.82u l=0.13u
R0 X.n0 X.t1 18.5449
R1 X.n0 X.t0 17.0005
R2 X X.n0 0.1105
R3 A A.t0 15.7294
R4 B.n0 B.t1 15.1854
R5 B.n0 B.t0 15.0005
R6 B B.n0 0.0309255
R7 SEL SEL.t0 15.0428
R8 D.n0 D.t0 15.1896
R9 D.n0 D 0.116
R10 D D.n0 0.0520625
R11 VDD.n1 VDD.t1 17.9261
R12 VDD.n0 VDD.t4 17.5574
R13 VDD.n2 VDD.t2 17.4849
R14 VDD.n5 VDD.n4 8.47111
R15 VDD.n4 VDD.n3 4.17719
R16 VDD.n4 VDD.n1 3.30918
R17 VDD.n4 VDD.t0 1.54595
R18 VDD.n2 VDD.n1 0.323251
R19 VDD.n3 VDD.n0 0.262011
R20 VDD.n3 VDD.n2 0.21278
R21 VDD VDD.n5 0.120789
R22 VDD.n5 VDD.n0 0.098289
R23 VSS.t6 VSS.n3 620.306
R24 VSS.t10 VSS.n1 586.294
R25 VSS.n7 VSS.t11 571.067
R26 VSS.t8 VSS.t1 472.082
R27 VSS.n6 VSS.t5 418.783
R28 VSS.n6 VSS.t3 403.553
R29 VSS.t12 VSS.n2 403.553
R30 VSS.t0 VSS.n2 373.096
R31 VSS.n4 VSS.t0 357.868
R32 VSS.t3 VSS.n1 327.411
R33 VSS.n5 VSS.t12 327.411
R34 VSS.t5 VSS.n0 312.183
R35 VSS.n7 VSS.t8 205.584
R36 VSS.t11 VSS.n0 159.899
R37 VSS.n5 VSS.t10 144.671
R38 VSS.n3 VSS.t9 122.922
R39 VSS.n4 VSS.t6 114.213
R40 VSS.n8 VSS.t1 69.9232
R41 VSS.n9 VSS.t2 17.6389
R42 VSS.n12 VSS.t7 17.3601
R43 VSS.n10 VSS.t4 17.2882
R44 VSS.n8 VSS.n4 17.0005
R45 VSS.n8 VSS.n2 17.0005
R46 VSS.n8 VSS.n5 17.0005
R47 VSS.n8 VSS.n1 17.0005
R48 VSS.n8 VSS.n6 17.0005
R49 VSS.n8 VSS.n0 17.0005
R50 VSS.n8 VSS.n7 17.0005
R51 VSS.n8 VSS.n3 13.0697
R52 VSS.n13 VSS.n8 8.47111
R53 VSS.n11 VSS.n8 5.61485
R54 VSS.n9 VSS.n8 2.73022
R55 VSS.n10 VSS.n9 0.297791
R56 VSS.n11 VSS.n10 0.230486
R57 VSS.n12 VSS.n11 0.203325
R58 VSS VSS.n13 0.120789
R59 VSS.n13 VSS.n12 0.098289
C0 a_402_448# VDD 0.00155f
C1 VDD a_238_448# 0
C2 a_274_122# a_692_96# 0
C3 VDD a_300_158# 0.27972f
C4 VDD a_274_122# 0.37823f
C5 A a_300_158# 0.07818f
C6 a_402_158# a_300_158# 0.00265f
C7 a_402_448# a_42_158# 0.00305f
C8 a_238_448# a_42_158# 0.00464f
C9 a_42_158# a_300_158# 0.36477f
C10 A a_274_122# 0.42426f
C11 VDD a_692_452# 0
C12 a_402_158# a_274_122# 0.00633f
C13 X a_856_452# 0.0057f
C14 a_274_122# a_42_158# 0.3235f
C15 A a_692_452# 0.00104f
C16 D VDD 0.43812f
C17 a_300_158# B 0.06273f
C18 SEL VDD 0.12149f
C19 a_274_122# B 0.13748f
C20 D a_42_158# 0.09428f
C21 a_402_448# a_300_158# 0.00817f
C22 a_238_448# a_300_158# 0
C23 VDD a_856_452# 0.00107f
C24 SEL a_42_158# 0.18296f
C25 a_274_122# a_238_448# 0
C26 A a_856_452# 0
C27 a_274_122# a_300_158# 0.70513f
C28 a_238_158# a_42_158# 0
C29 X a_856_96# 0.00593f
C30 a_692_452# a_300_158# 0
C31 a_402_448# D 0
C32 D a_238_448# 0.00526f
C33 a_274_122# a_692_452# 0.00867f
C34 X a_692_96# 0.00562f
C35 D a_300_158# 0.14967f
C36 SEL a_300_158# 0.01651f
C37 VDD X 0.07731f
C38 D a_274_122# 0.07582f
C39 SEL a_274_122# 0.06446f
C40 A X 0.02561f
C41 a_238_158# a_274_122# 0.00465f
C42 a_274_122# a_856_452# 0.00467f
C43 SEL D 0.04436f
C44 X B 0.34065f
C45 A VDD 0.41255f
C46 VDD a_42_158# 0.22117f
C47 X a_300_158# 0.00457f
C48 VDD B 0.06135f
C49 X a_274_122# 0.35137f
C50 a_274_122# a_856_96# 0
C51 A B 0.14955f
C52 X a_692_452# 0.0013f
C53 X VSS 0.43011f
C54 A VSS 0.46871f
C55 B VSS 0.09258f
C56 SEL VSS 0.60722f
C57 D VSS 0.11496f
C58 VDD VSS 0.27571f
C59 a_238_158# VSS 0.00164f
C60 a_238_448# VSS 0
C61 a_42_158# VSS 0.1746f
C62 a_300_158# VSS 0.15707f
C63 a_274_122# VSS 0.65673f
C64 VDD.t4 VSS 0.03226f
C65 VDD.n0 VSS 0.05583f
C66 VDD.t1 VSS 0.03265f
C67 VDD.n1 VSS 0.09639f
C68 VDD.t2 VSS 0.0505f
C69 VDD.n2 VSS 0.08016f
C70 VDD.n3 VSS 0.02847f
C71 VDD.t0 VSS 1.43142f
C72 VDD.n4 VSS 0.15873f
C73 VDD.n5 VSS 0.01324f
C74 D.t0 VSS 0.41368f
C75 D.n0 VSS 0.31786f
C76 SEL.t0 VSS 0.36832f
C77 B.t1 VSS 0.14663f
C78 B.t0 VSS 0.14616f
C79 B.n0 VSS 0.43038f
C80 A.t0 VSS 0.68864f
C81 X.t1 VSS 0.18765f
C82 X.t0 VSS 0.11872f
C83 X.n0 VSS 0.4407f
.ends

